US08217035B2
To a solution of 4-methylpyrimidine-2-ylamine (10.9 g, 100 mmol) in chloroform (400 mL) was added N-bromosuccinimide (17.8 g, 100 mmol). The solution was stirred in the dark for 15 hours, at which time it was added to CH2Cl2 (1400 mL), washed with 1N NaOH (3×200 mL) and NaCl(sat.) (100 mL), dried over Na2SO4, filtered and concentrated, yielding 5-bromo-4-methylpyrimidine-2-ylamine (18.8 g, 99%). LCMS (m/z): 188.0/190.0 (MH+). 1H NMR (CDCl3): δ 8.22 (s, 1H), 5.02 (bs, 2H), 2.44 (s, 3H).

reactant | 4-methylpyrimidine-2-ylamine | 100 mmol, 10.9 g | CC1=NC(=NC=C1)N | C5H7N3
reactant | N-bromosuccinimide | 100 mmol, 17.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | CH2Cl2 | 1400 mL | C(Cl)Cl | CH2Cl2
solvent | chloroform | 400 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-bromo-4-methylpyrimidine-2-ylamine | 18.8 g, 99% | BrC=1C(=NC(=NC1)N)C | C5H6BrN3
